US05545644
(R)-5-(2-Phenylsulfonylethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
A stirred solution of (R)-5-(2-benzenesulfonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole (34.0 g) in acetone (200 mL) was treated with methanesulfonic acid (8. 5871 g) then 5% palladium on carbon (50% wet) (34.0 g) added and the mixture exposed to hydrogen (50 psi) at ambient temperature. When conversion was judged to be complete the mixture was filtered (washing with acetone--85 mL--and mixed acetone/water--81 mL/4 mL). The combined filtrate and washings were diluted with water (800 mL) and the pH adjusted (with stirring) to about 11 by addition of 40% aqueous sodium hydroxide. After granulation of the precipitate the solids were collected by filtration to give the title compound (25.08 g) as that produced in Example 32).

reactant | (R)-5-(2-benzenesulfonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 34.0 g | C1(=CC=CC=C1)S(=O)(=O)C=CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C22H24N2O2S
reactant | methanesulfonic acid | 5871 g | CS(=O)(=O)O | CH4O3S
reactant | hydrogen | [H][H] | H2
solvent | acetone | 200 mL | CC(=O)C | C3H6O
catalyst | palladium on carbon | 34.0 g | [Pd] | Pd
product | (R)-5-(2-Phenylsulfonylethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 25.08 g | C1(=CC=CC=C1)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C22H26N2O2S
